US08957089B2
85.1 1-(4-chlorophenyl)-N-[2-(4-methoxyphenyl)ethyl]cyclopropanecarboxamide
A solution of 1-(4-chlorophenyl)cyclopropanecarboxylic acid (5.0 g, 25.3 mmol), 2-(4-methoxyphenyl)ethanamine (4.2 g, 28 mmol) and 4-N,N-Dimethylaminopyridin (3.3 g; 28 mmol) in methylenehloride (200 ml) was cooled to −10° C. N-ethyl-N′-(3-Dimethylaminopropyl)-carbodiimid hydrochloride (EDC, 5.3 g, 28 mmol) was added in several portions and the resulting mixture stirred overnight. The reaction mixture was poured into water and consecutively extracted with water, 2N NaOH and 1N HCl. Evaporation of the dried (NaSO4) extract yielded an oily residue that crystallized upon addition of n-heptan, which was used without further purification. Yield 7.0 g (21.2 mmol, 83%).

reactant | 1-(4-chlorophenyl)cyclopropanecarboxylic acid | 25.3 mmol, 5.0 g | ClC1=CC=C(C=C1)C1(CC1)C(=O)O | C10H9ClO2
reactant | 2-(4-methoxyphenyl)ethanamine | 28 mmol, 4.2 g | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | N-ethyl-N′-(3-Dimethylaminopropyl)-carbodiimid hydrochloride | 28 mmol, 5.3 g | Cl.C(C)N=C=NCCCN(C)C
solvent | water | O | H2O
product | 1-(4-chlorophenyl)-N-[2-(4-methoxyphenyl)ethyl]cyclopropanecarboxamide | ClC1=CC=C(C=C1)C1(CC1)C(=O)NCCC1=CC=C(C=C1)OC | C19H20ClNO2
